US08202899B2
Step E6: Preparation of 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethanol dihydrochloride:
A 2.5 L Parr reaction vessel was charged with 5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzonitrile (25.00 g, 84.09 mmol), EtOH (8.40 mL, 0.1M), and Pearlmans catalyst (5 g, 20% weight) and purged with nitrogen. Concentrated HCl (70.08 ml, 840.9 mmol) was added to the mixture. The vessel was charged with nitrogen gas (to 30 psi×3) and hydrogen (to 50 psi×3), and the reaction was stirred at ambient temperature for 66 hours. The mixture was filtered through a Celite pad and the pad was washed with EtOH. The filtrate was concentrated under reduced pressure, and the residue was azeotroped with EtOH and toluene to provide light brown solid to provide 30.2 g (96.0%) of the title compound. 1H NMR (400 MHz, CD3OD) δ 8.07 (s, 1H), 7.72 (d, J=8.61 Hz, 1H), 7.42 (d, J=2.35 Hz, 1H), 7.33 (dd, J=3.13 Hz, 8.61 Hz, 1H), 7.29 (dd, J=2.35 Hz, 8.61 Hz, 1H), 7.12 (dt, J=3.13 Hz, 8.61 Hz, 1H), 6.83 (dd, J=4.70 Hz, 8.61 Hz, 1H), 4.54 (t, J=5.48 Hz, 2H), 4.25 (br s, 2H), 3.98 (t, J=5.48 Hz, 2H).

reactant | 5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzonitrile | 84.09 mmol, 25.00 g | FC=1C=CC(=C(C#N)C1)OC=1C=C2C=NN(C2=CC1)CCO | C16H12FN3O2
reactant | HCl | 840.9 mmol, 70.08 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pearlmans catalyst | 5 g | [OH-].[OH-].[Pd+2]
solvent | EtOH | 0.1M, 8.40 mL | CCO | C2H6O
product | 2-(5-(2-(aminomethyl)-4-fluorophenoxy)-1H-indazol-1-yl)ethanol dihydrochloride | 30.2 g, 96.0% | Cl.Cl.NCC1=C(OC=2C=C3C=NN(C3=CC2)CCO)C=CC(=C1)F | InChI=1S/C16H16FN3O2.2ClH/c17-13-1-4-16(11(7-13)9-18)22-14-2-3-15-12(8-14)10-19-20(15)5-6-21;;/h1-4,7-8,10,21H,5-6,9,18H2;2*1H
